US07547701B2
To a mixture of methyl 2(R)-amino-3-(pyridin-2-ylmethylsulfanyl)-propionate hydrochloride (1.31 g, 5 mmol), 2,2,2-trifluoro-1-(4-fluorophenyl)ethanone (0.875 g), DIPEA (2.39 g, 18.5 mmol), in dichloromethane (20 mL) was added titanium tetrachloride (4.65 mmol) dropwise over 5 min. After stirring for 3 h at ambient temperature, additional titanium tetrachloride (0.3 mmol) was added. After an additional hour of stirring, NaCNBH4 (0.973 g, 15.5 mmol) was added in methanol (10 mL). After 1 h, the reaction mixture was diluted with ethyl acetate (200 mL) and poured onto magnesium sulfate. After filtration and concentration, the residue was purified by flash chromatography to afford methyl 3-(pyridin-2-yl-methylsulfanyl)-2(R)-[2,2,2-trifluoro-1(RS)-(4-fluorophenyl)ethylamino]-propionate (640 mg, 1.59 mmol).

reactant | methyl 2(R)-amino-3-(pyridin-2-ylmethylsulfanyl)-propionate hydrochloride | 5 mmol, 1.31 g | Cl.N[C@H](C(=O)OC)CSCC1=NC=CC=C1
reactant | 2,2,2-trifluoro-1-(4-fluorophenyl)ethanone | 0.875 g | FC(C(=O)C1=CC=C(C=C1)F)(F)F | C8H4F4O
reactant | DIPEA | 18.5 mmol, 2.39 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | titanium tetrachloride | 4.65 mmol | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium tetrachloride | 0.3 mmol | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 3-(pyridin-2-yl-methylsulfanyl)-2(R)-[2,2,2-trifluoro-1(RS)-(4-fluorophenyl)ethylamino]-propionate | 1.59 mmol, 640 mg | N1=C(C=CC=C1)S(C[C@@H](C(=O)OC)NC(C(F)(F)F)C1=CC=C(C=C1)F)C | C18H20F4N2O2S
